US07795267B2
Bis(phenylmethyl)2-(dicyclopropylhydroxymethyl)-1,4-piperazinedicarboxylate
1,4-Bis(phenylmethyl)-α,α-dicyclopropyl-2-piperazinemethanol (1.2 g, 3.1 mmol) was dissolved in ethanol/water (40 mL/4 mL). 10% Palladium carbon (0.12 g) was added thereto, and the mixture was stirred under hydrogen pressure (3.6 bar) at room temperature one whole day and night. The reaction solution was filtered through a Celite, the Celite was washed with ethanol, and then the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (50 ml). A 0.5 M aqueous sodium hydrogen carbonate solution (50 mL) and benzyl chlorocarbonate (1.8 mL, 12 mmol) were added thereto. The resulting mixture was stirred at room temperature for 4 hours and the reaction solution was extracted with ethyl acetate (100 mL). The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. Then, the residue was purified with silica gel column chromatography (hexane:ethyl acetate=21:1 to 4:1) to obtain the title compound (1.4 g, quantitative) as an oily matter.

reactant | 1,4-Bis(phenylmethyl)-α,α-dicyclopropyl-2-piperazinemethanol | 3.1 mmol, 1.2 g | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(O)(C1CC1)C1CC1 | C25H32N2O
reactant | sodium hydrogen carbonate | 0.5 M, 50 mL | C(O)([O-])=O.[Na+]
reactant | benzyl chlorocarbonate | 12 mmol, 1.8 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
solvent | ethanol water | 40 mL | C(C)O.O
catalyst | Palladium carbon | 0.12 g | [C].[Pd]
product | Bis(phenylmethyl)2-(dicyclopropylhydroxymethyl)-1,4-piperazinedicarboxylate | 1.4 g | C1(=CC=CC=C1)COC(=O)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(O)(C1CC1)C1CC1 | C27H32N2O5
